US07655664B2
0.5M Zinc chloride in THF (5.5 mL, 2.8 mmol) was added to a solution of 0.5M cyclopropylmagnesium bromide in THF (5.5 mL, 2.8 mmol) under argon. The solution was stirred at RT for 2 h at which time a slurry had formed. To this slurry was added in one portion 2,5-dibromopyridine (0.65 g, 2.8 mmol) and PdCl2×dppf (0.041 g, 0.050 mmol). After a few minutes an exotherm was seen and the slurry became thicker, the exotherm subsided and the slurry was stirred at RT overnight. The reaction mixture was poured into saturated sodium bicarbonate solution and extracted with ether. The ether phase was dried, filtered and concentrated, then re-dissolved in DCM and applied to a short plug of silica gel. The gel was washed with DCM and the washings were concentrated. The residue was taken up in ether and washed with 1.0M hydrochloric acid. The acidic water phase was made basic with 2.0M sodium hydroxide and the product was extracted back into ether. The combined ether phases were washed with brine, dried, filtered and concentrated to give 0.28 g (50%) of 5-bromo-2-cyclopropylpyridine as a yellow oil.

reactant | THF | 2.8 mmol, 5.5 mL | C1CCOC1 | C4H8O
reactant | cyclopropylmagnesium bromide | 0.5M | C1(CC1)[Mg]Br
reactant | THF | 2.8 mmol, 5.5 mL | C1CCOC1 | C4H8O
reactant | 2,5-dibromopyridine | 2.8 mmol, 0.65 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | Zinc chloride | 0.5M | [Cl-].[Zn+2].[Cl-]
catalyst | PdCl2 | Cl[Pd]Cl
catalyst | dppf | 0.050 mmol, 0.041 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 5-bromo-2-cyclopropylpyridine | 0.28 g, 50% | BrC=1C=CC(=NC1)C1CC1 | C8H8BrN
